US07501407B2
[(6-{[2-(Acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetic acid (25)
To a well of a 96 well microtitre plate were added methyl [(6-{[2-(acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetate (30 μl of a 0.3M solution in anhydrous DMSO) and 4-phenylpiperazine (30 μl of a 1.5M solution). This solution was left to shake on a plate shaker for 16 hrs. After this time 800 μl of dichloromethane were added, then 100 mg of PS-NCO. The plate was sealed, then mixed for 48 hrs. The slurry was filtered and the solvents removed in vacuo, to furnish the title compound.

reactant | methyl [(6-{[2-(acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetate | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(C(=O)OC)=O | C17H19N5O4
reactant | 4-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | dichloromethane | 800 μl | ClCCl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | [(6-{[2-(Acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetic acid | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(C(=O)O)=O | C16H17N5O4
